US06962941B2
A10. 4-Azido-1-[3-(3-tert-butyloxycarbonylaminomethylphenyl)propionyl]proline methyl ester
1.61 g (5.7 mmol) of 3-(3-tert-butyloxycarbonylaminomethylphenyl)propionic acid (starting compound A11) are dissolved in 14 ml of CH2Cl2, and 2.1 ml of DIPEA are added. After stirring for 5 min., 2.2 g (5.7 mmol) of HBTU are added and, after a further 5 min., 1.0 g (4.8 mmol) of (2S,4S)-4-azidoproline methyl ester hydrochloride. After stirring at RT overnight, ethyl acetate and water are added and the phases are separated. The organic phase is washed once each with 1N sodium hydroxide solution,1N hydrochloric acid solution, saturated sodium bicarbonate solution and saturated brine. Drying over magnesium sulfate is followed by concentration and drying under high vacuum. Further purification takes place by chromatography [Tol/Ac (8:2)] on a silica gel column. The title compound (1.5 g) is obtained as a colorless oil. TLC, silica gel (glass plates), [toluene/acetone (8:2)], Rf=0.31. The mass spectrum shows the molecular peak MNH4+ at 449 Da.

reactant | 3-(3-tert-butyloxycarbonylaminomethylphenyl)propionic acid | 5.7 mmol, 1.61 g | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1)CCC(=O)O | C15H21NO4
reactant | DIPEA | 2.1 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HBTU | 5.7 mmol, 2.2 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2S,4S)-4-azidoproline methyl ester hydrochloride | 4.8 mmol, 1.0 g | Cl.COC([C@H]1NC[C@H](C1)N=[N+]=[N-])=O
solvent | CH2Cl2 | 14 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Azido-1-[3-(3-tert-butyloxycarbonylaminomethylphenyl)propionyl]proline methyl ester | 1.5 g | COC([C@H]1N(CC(C1)N=[N+]=[N-])C(CCC1=CC(=CC=C1)CNC(=O)OC(C)(C)C)=O)=O | C21H29N5O5
